Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin / iodine / latex / mold / nuts
 
Attending: ___.
 
Chief Complaint:
Fever, sorethraot, headache 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient is a ___ female with a past medical history of 
POTS (on home IVF), multiple admission for line infections (most 
recent ___, colectomy (___), chronic pain, chronic fatigue, 
who presents for low blood pressure, fever, sore throat, found 
to have bandemia. 

Patient describes that she recently had a loss of her 
grandfather who passed yesterday with bacteremia. Around 1 AM, 
patient woke up with Rigors and took her temperature which was 
close to 103. She was feeling overall fatigue and sore throat 
but without any chest pain or pressure. Took 1 g of tylenol at 
home. Did not improve so she called ___. Did not have any 
dyspnea. No abdominal pain. Just felt overall weakness. She 
presented to ___ for ___, there found to 
be febrile to 101.2, tachycardic and hypotensive. She also had a 
blood work pertinent for lactate of 3.7, reassuring 
electrolytes, WBC of 3.9. Negative troponin. Patient also had a 
chest x-ray done which showed a central line tip overlying the 
SVC. Patient did receive vancomycin 1 g at 6:30 AM, ceftazidine 
2 g of 5:50 AM. Also received Toradol. Transfer here for further 
care.

On arrival, patient endorses mild sore throat and generalized 
malaise. Denies any headache. Denies any tick bites. No rashes. 
No neck stiffness. No dysuria hematuria. She is currently going 
through her. But otherwise denies any vaginal discharge.

She received 3 L of fluid at outside hospital.

In ED initial VS: 98.8 ___ 18 97% RA  
 
Labs significant for: lactate 1.5, WC 8.0 hgb 10.5, plt 150, Na 
142, K 4.0, Cl 109, bicarb 19, BUN 16, Cr 0.8. ALT 76, AST 103, 
AP 33, Alb 3.0 
 
Patient was given: 1L NS, Tylenol, IV morphine 
 
Imaging notable for:  CXR at OSH, no cardiopulmonary process
 
VS prior to transfer:  99.6 ___ 16 97% RA 
 
On arrival to the FICU,  pt was afebrile, HR 98, BP 82/51, RR 14 
100%RA. Pt complained of a frontal headache with light 
sensitivity. She states she had it at home this morning. 
Headaches are chronic due to chronic neck joint/muscle 
stiffness. She still has a sore throat she attributes to "being 
dry" but denies rhinorrhea. She also complains of nausea but no 
vomiting, increased from her baseline. Her last meal was 
yesterday and prior to admission she had been eating and 
drinking normally, including self-administering 3L fluid daily. 
She denies diarrhea, although she had a previous colectomy in 
___, so she denies having normal bowel movements. She complains 
of generalized joint pain including neck, ribs, sternum. She 
also describes dysuria and cloudy urine. 

 
Past Medical History:
-POTs requiring IVF 
-History of bilateral ovarian cysts  
-History of drug and alcohol abuse  
-Anxiety  
-Depression  
-History of gastritis and peptic ulcer disease  
-Chronic fatigue syndrome  
-Vitamin D deficiency  
-Hypothyroidism  
-Recurrent DVTs  
-GERD  
-Neuropathy  
-S/p sigmoidectomy for constipation 
 
Social History:
___
Family History:
Mother with no cancer  
Father- unsure  
2 brothers and sister are alive and well  
PGM with breast cancer, DM, CVD, HTN  
MGM - breast cancer, DM, HLD, HTN  
No history of blood clots or bleeding disorders  
 
 
Physical Exam:
Admission Physical Exam
=======================
VITALS: ___ 12 96% RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: no rashes or bruises. Tunneled catheter on the right with 
no erythema, swelling, or warmth.   
NEURO: AOx3, non-focal

Discharge Physical Exam 
=======================
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: no rashes or bruises. Tunneled catheter on the right with 
no erythema, swelling, or warmth.   
NEURO: AOx3, non-focal

 
Pertinent Results:
Admission Labs
=============

___ 10:40AM BLOOD WBC-8.0 RBC-3.78* Hgb-10.5* Hct-32.2* 
MCV-85 MCH-27.8 MCHC-32.6 RDW-13.8 RDWSD-42.9 Plt ___
___ 10:40AM BLOOD Neuts-87* Bands-10* Lymphs-3* Monos-0 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-7.76* 
AbsLymp-0.24* AbsMono-0.00* AbsEos-0.00* AbsBaso-0.00*
___ 10:40AM BLOOD Plt Smr-NORMAL Plt ___
___ 11:23AM BLOOD ___ PTT-25.0 ___
___ 10:40AM BLOOD Glucose-101* UreaN-16 Creat-0.8 Na-142 
K-4.0 Cl-109* HCO3-19* AnGap-14
___ 10:40AM BLOOD ALT-76* AST-103* AlkPhos-33* TotBili-0.2
___ 10:40AM BLOOD Lipase-24
___ 10:40AM BLOOD Albumin-3.0*
___ 06:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-9* 
Tricycl-NEG
___ 10:52AM BLOOD Lactate-1.5

Discharge Labs
==============
___ 04:56AM BLOOD WBC-13.6* RBC-3.92 Hgb-10.7* Hct-32.9* 
MCV-84 MCH-27.3 MCHC-32.5 RDW-14.3 RDWSD-43.8 Plt ___
___ 04:56AM BLOOD ___ PTT-33.5 ___
___ 04:56AM BLOOD Glucose-73 UreaN-13 Creat-0.8 Na-139 
K-3.6 Cl-107 HCO3-18* AnGap-14
___ 04:56AM BLOOD ALT-205* AST-168* LD(LDH)-297* 
AlkPhos-100 TotBili-0.5
___ 04:56AM BLOOD Calcium-7.9* Phos-2.1* Mg-1.5*

Micro
======
___ 11:05 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      GRAM NEGATIVE ROD(S). 

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ 0408 ON ___ - 
___. 
      GRAM NEGATIVE ROD(S)

___: Urine culture pending 

Imaging
=========
No imaging was ordered 

 
Brief Hospital Course:
ASSESSMENT & PLAN:  

Patient is a ___ female with a past medical history of 
POTS (on home IVF), multiple admission for line infections (most 
recent MSSA bacteremia ___, colectomy (___), chronic pain, 
chronic fatigue, who presented with septic shock growing GNRs of 
unclear source, started on broad spectrum antibiotics. However, 
patient left on hospital day #2 against advice of medical team. 

#Left hospital against medical advice prior to receiving 
discharge paperwork or medicaitons. 
On hospital day 2, Ms. ___ wanted to leave against medical 
advice.
She was very upset and said she wanted to go home to get medical
care at home. Dr. ___ explained to her that she has gram 
negative rod
bacteremia making it unsafe  to go home. She said she didn't 
care if she died, was very upset and tearful. Medical team did 
not feel that she had capacity to leave against medical advice. 
Consulted psychiatry to evaluate the patient for capacity. She 
waited in the FICU waiting room because she refused to come back
onto the FICU unit. Psychiatry evaluated Ms. ___ and ___ she 
did have capacity to leave against medical advice. While 
preparing her paperwork, she left the hospital against medical 
advice and did not receive discharge paperwork or antibiotics, 
saying that she would be walking across the street to ___ to 
receive medical care there. Medical team contacted ___ who 
confirmed patient had been admitted and we spoke with a nurse 
___ relating that the patient was growing gram negative rods on 
blood culture. 

#Septic shock 
#GNR bacteremia
Presented with low blood pressures 80-90/50s. lactate elevated 
to 3.5, bandemia (but normal WBCs). Patient reported one day of 
fever, headache, photophobia, and sore throat. She was started 
on vancomycin/cefepime. Blood pressure improved to 110s/70s 
after fluid resuscitation (4L in the ED, 2L on the floor). Gram 
stain of blood cultures on admission returned as GNRs 
(speciation pending). At the time of elopement was undergoing 
investigation for source including urine culture as well as 
consideration of an LP due to c/f meningitis. CXR on admission 
without consolidation. Line infection considered less likely 
given GNRs and no evidence of surrounding cellulitis. Other 
pertinent work up included negative flu swab. Patient was 
adamant that she wanted to be DNR/DNI and did not want any 
procedures, felt that the team was not listening to her wishes, 
and left hospital as described above.  
 
#Transamnitis
ALT/AST mildly elevated c/w with hepatocellular etiology. She 
reported daily use of Tylenol 1 g twice daily for chronic pain 
but no recent change to that. Tylenol level 9, so NAC protocol 
not started. DDx included viral, drug-induced, autoimmune. Less 
likely ischemic given low transaminitis level. Labs ordered for 
work up included Hep A/B/C (pending), serum tox screen 
(negative, autoimmune hepatitis panel. 

Chronic Issues
===============
# POTS: Patient with chronic POTTs. At home she receives about 3 

L of fluid daily in 3 boluses. She was started on her home 
regimen of 1 L of NS every 8 hours. 

# Depression / Anxiety: Venlafaxine 150 mg was decreased to 75 
mg daily i/s/o of tranaminitis. 

# Partial sigmoidectomy: In ___ for refractory slow transit 
type  constipation, now with loose BMs. Possible contributor to 
POTS. She continued her loperamide, psyllium prn while in the 
hospital. 

# History of recurrent PICC line associated DVT: Continued home 
Lovenox. Followed by Dr. ___ in ___ ___

# Communication: HCP:  Name of health care proxy: ___ 
Relationship: Mother 
Phone number: ___ 
Cell phone: ___ 
# Code: Full, presumed

Transitional Issues
===================
[ ] Patient admitted at ___ after elopement. Medical team spoke 
with an RN at ___ to relate the GNR bacteremia results. 
[ ] Transaminitis: Hepatitis and autoimmune panel sent but 
pending at time of discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN nausea 
2. Fludrocortisone Acetate 0.1 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
4. LOPERamide 2 mg PO TID:PRN diarrhea 
5. Venlafaxine 150 mg PO BID 
6. Enoxaparin Sodium 80 mg SC Q24H 
Start: ___, First Dose: Next Routine Administration Time 
7. LORazepam 0.5 mg PO QHS:PRN anxiety 
8. TraZODone 50 mg PO QHS:PRN sleep 
9. Tizanidine 4 mg PO QHS:PRN pain 
10. BuPROPion 75 mg PO TID 
11. Ranitidine 150 mg PO BID:PRN Hearburn 
12. DiphenhydrAMINE 25 mg PO DAILY:PRN itching 
13. Multivitamins 1 TAB PO DAILY 
14. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID:PRN 
itching 

 
Discharge Medications:
Eloped
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sepsis due to a bloodstream infection 
 
Discharge Condition:
Stable 
 
Discharge Instructions:
Patient left hospital prior to receiving discharge paperwork. 
 
Followup Instructions:
___